US05942544
Part C. Sodium hydride (0.76 mmol) (washed free of the mineral oil with hexane) was added to a solution of ethyl 3-(cyano)-gamma-(hydroxy)benzenebutanoate (0.15 gm, 0.64 mmol), a-bromo-p-tolunitrile (0.125 gm, 0.64 mmol) and potassium iodide in 5 mL DMF at 0° C. under a nitrogen atmosphere. The reaction was stirred for 2 hrs at 0° C. and was allowed to stir at ambient temperature overnight. The reaction solution was poured into 1N HCl and extracted with ethyl acetate. The combined organic layer was washed with water, brine, dried over magnesium sulfate and concentrated to give the crude product as a viscous oil. The product was purified by flash chromatography on silica gel (75 mL) eluting toluene:ethyl acetate (v:v, 90:10) to give ethyl 3-(cyano)-gamma-[[4-(cyano)phenyl]methoxy]benzenebutanoate as a semisolid residue 0.10 gm (45% yield) MS 366(M+NH4)+ 1 H NMR (CDCl3): 7.72-7.47(m, 6H), 7.42(d, 2H), 4.5-4.3(m, 3H), 4.1(q, 2H), 2.42(m, 2H), 2.17-1.97(m, 2H), 1.23(t, 3H).

reactant | Sodium hydride | 0.76 mmol | [H-].[Na+]
reactant | ethyl 3-(cyano)-gamma-(hydroxy)benzenebutanoate | 0.64 mmol, 0.15 gm | C(#N)C=1C=C(C=CC1)C(CCC(=O)OCC)O | C13H15NO3
reactant | a-bromo-p-tolunitrile | 0.64 mmol, 0.125 gm | C1=CC(=CC=C1CBr)C#N | C8H6BrN
reactant | potassium iodide | [I-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(cyano)-gamma-[[4-(cyano)phenyl]methoxy]benzenebutanoate | C(#N)C=1C=C(C=CC1)C(CCC(=O)OCC)OCC1=CC=C(C=C1)C#N | C21H20N2O3
